US06828442B2
A suspension of 800 mg of 1′-benzyl-3-bromo-[1,3′]bipyrrolidinyl-2-one in 1.0 ml toluene was treated with 1.95 g of Ph3P and stirred at 110° C. for 30 min whereupon TLC indicated the reaction was complete. The brown two phase mixture was diluted with 10 ml EtOAc and the organic phase was extracted with three portions of 10 ml of saturated NaBr solution. The combined aqueous phases were washed three times with 10 ml EtOAc (to remove Ph3P), and then extracted seven times with 15 ml CH2Cl2, the combined organic phases dried over MgSO4 and concentrated to give 1.13 g (78%) of (R)-(1′-benzyl-2-oxo-[1,3′]bipyrrolidinyl-3-yl)-triphenyl-phosphonium bromide as a light brown foam. 1H-NMR (250 MHz; CDCl3, ˜1:1 mixture of diastereomers): 7.32-8.04 (m, 5H), 7.50-7.82 (m, 10H), 7.19-7.40 (m, 5H), 6.44-6.64 (m, 1H), 4.39-4.50 (m, 1H), 3.10-3.88 (m, 5H), 2.85-3.00 (m, 0.5H), 2.62-2.80 (m, 1H), 2.32-2.5 (m, 0.5H), 1.72-2.32 (m, 5H).

reactant | (R)-(1′-benzyl-3-bromo-[1,3′]bipyrrolidinyl-2-one) | 800 mg | C(C1=CC=CC=C1)N1CC(CC1)N1C([C@@H](CC1)Br)=O | C15H19BrN2O
reactant | Ph3P | 1.95 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | toluene | 1.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | (R)-(1′-benzyl-2-oxo-[1,3′]bipyrrolidinyl-3-yl)-triphenyl-phosphonium bromide | 1.13 g, 78% | [Br-].C(C1=CC=CC=C1)N1CC(CC1)N1C([C@@H](CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C33H34N2OP.BrH/c36-33-32(22-24-35(33)28-21-23-34(26-28)25-27-13-5-1-6-14-27)37(29-15-7-2-8-16-29,30-17-9-3-10-18-30)31-19-11-4-12-20-31;/h1-20,28,32H,21-26H2;1H/q+1;/p-1/t28?,32-;/m1./s1
